US03989694
7-D-Mandelamido-3-(4-carboxy-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (VI)
7-D-Mandelamido-3-(4-carboxy-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid disodium salt is dissolved in a minimum amount of water to which chloroform is added. While stirring, 3N hydrochloric acid is added until the solution is acidified to pH 2.5. The layers are separated, the aqueous phase is extracted with chloroform and the combined extracts are washed with water, dried (MgSO4) and evaporated to dryness to give the title compound.

reactant | 7-D-Mandelamido-3-(4-carboxy-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid disodium salt | [Na+].[Na+].C([C@H](O)C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=C(N=NN2)C(=O)O)C(=O)[O-])C1=O.C([C@H](O)C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=C(N=NN2)C(=O)O)C(=O)[O-])C1=O
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-D-Mandelamido-3-(4-carboxy-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | C([C@H](O)C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=C(N=NN2)C(=O)O)C(=O)O)C1=O | C19H17N5O7S2
